US06677473B1
A. 4-(1H-Tetrazol-5-yl)phenol
A 50 mL round bottomed flask equipped with a Teflon coated magnetic stirring bar, and a rubber septum was charged with 4-cyanophenol (596 mg, 5.0 mmol), sodium azide (975 mg, 15 mmol), triethylamineo.HCl (2.06 g, 15 mmol) and toluene (25 mL). The reaction mixture was heated at 100° C. for 18 h with vigorous stirring. The reaction mixture was cooled to ambient temperature and poured into a separatory funnel and extracted with H2O (3×10 mL). The combined aqueous phases were treated dropwise with HCl (conc.) to precipitate the product from the reaction mixture. The precipitate was collected by vacuum filtration and dried under vacuum to afford the title compound as an off-white solid (890 mg, 94%).

reactant | 4-cyanophenol | 5.0 mmol, 596 mg | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium azide | 15 mmol, 975 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 15 mmol, 2.06 g | Cl | ClH
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1H-Tetrazol-5-yl)phenol | 890 mg, 94% | N1N=NN=C1C1=CC=C(C=C1)O | C7H6N4O
